US04818431
24.7 g of 2-p-aminophenyl-5-pentyl-tetrahydropyran are dissolved in a mixture of 25 ml of concentrated hydrochloric acid and 75 ml of water, and diazotized at 3°-6° with a solution of 8 g of NaNO2 in 15 ml of water. Then 24 g of 40% tetrafluoroboric acid are added, and the precipitated diazonium tetrafluoroborate is filtered off, washed with water and dried. The diazonium salt is heated to about 150°, and the residue is worked up as usual. 2-p-Fluorophenyl-5-pentyl-tetrahydropyran is obtained.

reactant | 2-p-aminophenyl-5-pentyl-tetrahydropyran | 24.7 g | NC1=CC=C(C=C1)C1OCC(CC1)CCCCC | C16H25NO
reactant | NaNO2 | 8 g | N(=O)[O-].[Na+]
reactant | tetrafluoroboric acid | 24 g | F[B-](F)(F)F.[H+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 2-p-Fluorophenyl-5-pentyl-tetrahydropyran | FC1=CC=C(C=C1)C1OCC(CC1)CCCCC | C16H23FO
